US09085534B2
3-{[3-(trifluoromethyl)benzyl]amino}pyridine-4-carboxylic acid
The title compound was prepared in 39% yield from 3-trifluoromethyl-benzylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 13.47 (br s, 1H), 8.12 (s, 1H), 7.83 (d, 1H, J=5.0 Hz), 7.74 (s, 1H), 7.57-7.69 (m, 4H), 4.67 (s, 2H). [M+H] calc'd for C14H11F3N2O2, 297; found 297.

reactant | 3-trifluoromethyl-benzylamine | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-{[3-(trifluoromethyl)benzyl]amino}pyridine-4-carboxylic acid | 39% yield | FC(C=1C=C(CNC=2C=NC=CC2C(=O)O)C=CC1)(F)F | C14H11F3N2O2
